US07148228B2
Step 2: 4-Bromo-2,3,5-collidine-N-oxide
2,3,5-collidine-N-oxide (1.3 g, 10 mmol) and K2CO3 (2.9 g, 20 mmol) were suspended in 10 mL of CCl4. Bromine (1 mL, 20 mmol) was added dropwise, and the reaction mixture was heated to reflux for 2 h. Work-up (EtOAc) and flash chromatography (10% MeOH/EtOAc) afforded the title compound as a solid (1.05 g, 51% yield). R.t.: 5.24 min. 1H-NMR (CDCl3): δ 8.06 (s, 1H), 2.56 (s, 3H), 2.43 (s, 3H), 2.31 (s, 3H). m/z (%) 216.2 (M+1, 100%), 218.2 (M+3, 100%). Rf (20% MeOH/EtOAc): 0.45.

reactant | 2,3,5-collidine-N-oxide | 10 mmol, 1.3 g | [N+]1(=C(C(=CC(=C1)C)C)C)[O-] | C8H11NO
reactant | K2CO3 | 20 mmol, 2.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Bromine | 20 mmol, 1 mL | BrBr | Br2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | 4-Bromo-2,3,5-collidine-N-oxide | 1.05 g, 51% yield | BrC1=C(C(=[N+](C=C1C)[O-])C)C | C8H10BrNO
